US06359134B1
1-(4-Diisopropylaminomethylbenzoyl)-4-(7-hydroxynaphthalene-2-sulfonyl)piperazine
According to a similar method described in Working Example 36, to a solution of 1-(4-diisopropylaminomethylbenzoyl)-4-(7-methoxynaphthalene-2-sulfonyl)piperazine (150 mg) in CH2Cl2 (6 ml) was added dropwise at 0° C. a solution of 3.5 M BBr3 in CH2Cl2 (0.18 ml), and the solution was stirred at room temperature for 1 hour. To the reaction solution was added sodium bicarbonate solution and the organic layer was separated, dried and concentrated to give a colorless solid of the title compound (119 mg).

reactant | 1-(4-diisopropylaminomethylbenzoyl)-4-(7-methoxynaphthalene-2-sulfonyl)piperazine | 150 mg | C(C)(C)N(C(C)C)CC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC(=CC=C3C=C2)OC)C=C1 | C29H37N3O4S
reactant | BBr3 | 3.5 M | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.18 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-Diisopropylaminomethylbenzoyl)-4-(7-hydroxynaphthalene-2-sulfonyl)piperazine | 119 mg | C(C)(C)N(C(C)C)CC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC(=CC=C3C=C2)O)C=C1 | C28H35N3O4S
